US03998971
N-(2-vinyloxyethyl)-α-methyl-β-phenylethylamine
A solution of 40.2 g. (0.3 mole) of phenylacetone, 26.2 g. (0.3 mole) of 2-aminoethyl vinyl ether and 200 cc. of anhydrous benzene were heated under reflux under a DeanStart water separator until the theoretical amount of water was removed (ca. 4 hours). At the end of this time, the benzene was removed under vacuum and the resulting crude imine was taken up in 450 cc. of dry methanol. To this solution was added 22.6 g. (0.6 mole) of sodium borohydride in small portions over a period of 1/2 hour. After the addition was complete, the reaction mixture was refluxed for 3 hours. The methanol was removed under vacuum and 300 cc. of water, 150 cc. of 20% potassium hydroxide and 60 g. of potassium hydroxide were added successively and the resulting oil was extracted with ether. After drying the ether solution over anhydrous magnesium sulfate, filtering and concentrating the resulting oil, it was distilled. 32.5 g. (64% yield) of the product as a colorless oil was obtained, b.p. 100°-102°/1.5 mm; ND25 1.5070.

reactant | phenylacetone | 0.3 mole | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | 2-aminoethyl vinyl ether | 0.3 mole | C(=C)OCCN | C4H9NO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | sodium borohydride | 0.6 mole | [BH4-].[Na+]
solvent | water | O | H2O
product | N-(2-vinyloxyethyl)-α-methyl-β-phenylethylamine | 64% yield | C(=C)OCCNC(CC1=CC=CC=C1)C | C13H19NO
